US07300951B2
C. 5,5,5-Trifluoronorvaline
5-(3,3,3-trifluoropropyl)imidazolidine-2,4-dione (0.9 g, 4.59 mmol) was dissolved in a 10 mL solution of aqueous NaOH (0.734 g in 10 mL H2O, 18.35 mmol). The solution was divided in 2 special vessels for microwave technology. The solution was heated by microwave in sealed vessels for 1 h. Microwave conditions: 15 min at about 100% power, 150° C., 50 psi, then 5 min at rest, 0% power. Repeat sequence twice or until reaction is done. Water and ammonia were removed from the reaction mixture in vacuo and the resulting crude 5,5,5-trifluoronorvaline (1.1 g, 140%) and NaOH mixture was used in the next reaction without further purification.

reactant | 5-(3,3,3-trifluoropropyl)imidazolidine-2,4-dione | 4.59 mmol, 0.9 g | FC(CCC1C(NC(N1)=O)=O)(F)F | C6H7F3N2O2
reactant | NaOH | 18.35 mmol, 10 mL, 0.734 g | [OH-].[Na+]
product | 5,5,5-Trifluoronorvaline | FC(CC[C@H](N)C(=O)O)(F)F | C5H8F3NO2
